US07932271B2
N-(2-Aminoethyl)-6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]nicotinamide
To an ethanol (2 ml) solution of t-butyl[2-[[6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridine-3-carbonyl]amino]ethyl]carbamate (50 mg, 0.0880 mmol) was added concentrated hydrochloric acid (2 ml). The resulting mixture was stirred at room temperature for 20 minutes. The reaction mixture was concentrated under reduced pressure. The solid thus obtained was washed with diethyl ether to give the title compound (44 mg, 0.0880 mmol, quant.) as 1.5 hydrochloride (white powder).

reactant | t-butyl[2-[[6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridine-3-carbonyl]amino]ethyl]carbamate | 0.0880 mmol, 50 mg | C(C)(C)(C)OC(NCCNC(=O)C=1C=NC(=CC1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C26H26ClF2N3O5S
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | N-(2-Aminoethyl)-6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]nicotinamide | 0.0880 mmol, 44 mg | NCCNC(C1=CN=C(C=C1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C21H18ClF2N3O3S
